US06403610B1
A mixture of 2.8 g of (3R,4R)-4-(3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid in 100 cm3 of anhydrous methanol to which had been added 1 cm3 of 95% sulfuric acid was heated with stirring at a temperature in the region of the boiling point for 2 hours. After cooling to a temperature in the region of 20° C., the reaction mass was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then 20 cm3 of a saturated aqueous sodium hydrogencarbonate solution were added to the residue obtained. The mixture was extracted with 4 times 20 cm3 of dichloromethane. The combined extracts were dried over magnesium sulfate, filtered, and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 2.25 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate were obtained in the form of an oil with a brown color.

reactant | (3R,4R)-4-(3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid | 2.8 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)CC(=O)O | C25H34N2O5
reactant | sulfuric acid | 1 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 2.25 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)CC(=O)OC | C21H28N2O3
